* Hospital for Robots: Thick-Core AFE Validation
.param f_carrier=13.56meg
.param c_coupling=35f     ; Boosted from 10f to 35f for thicker copper
.param c_mux_load=40p     ; ADG708/GT4852 Parasitic Load
.param c_in_opa=7p       ; OPA2356 Input Cap

Vexc 1 0 SINE(0 5V {f_carrier})
Cx 1 2 {c_coupling}

* Divider: 35f / (35f + 47p) 
Ctotal 2 0 {c_mux_load + c_in_opa}
Rbias 2 0 1Meg

* Stage 1 & 2 (OPA2356AIDGKR) 
Xamp1 2 3 4 opa_200m
Rf1 4 3 1k
Rg1 3 0 100

Xamp2 4 5 6 opa_200m
Rf2 6 5 1k
Rg2 5 0 100

.subckt opa_200m nip in out
    Ein 1 0 nip in 100k
    R1 1 2 1k
    C1 2 0 79.6n
    Eout out 0 2 0 1
.ends

.tran 1n 1u

.control
    run
    * Plot 1: The Raw Divider (Excitation vs. Op-Amp Input Pin)
    plot v(1) v(2) 
    
    * Plot 2: The Signal Chain (Pin -> Stage 1 -> Stage 2)
    * This allows you to verify the Gain-Bandwidth limit of each OPA2356
    plot v(2) v(4) v(6)
    
    * Plot 3: Zoomed Final Result (For ADC/Comparator check)
    plot v(6) xlabel 'Time (s)' ylabel 'Voltage (V)' title 'Final AFE Output'
.endc
.end
